* D:\transistorComputer\CMOS\Computer.asc
XX2 VDD PC[0] PC[1] PC[2] CLK counter
XX3 REGIN[0] REGIN[1] REGIN[2] REGIN[3] REGIN[4] REGIN[5] REGIN[6] REGIN[7] REGIN[8] VDD CLK ADDR0[0] ADDR0[1] ADDR1[0] ADDR1[1] ADDR2[0] ADDR2[1] REGOUT[0] REGOUT[1] REGOUT[2] REGOUT[3] REGOUT[4] REGOUT[5] REGOUT[6] REGOUT[7] REGOUT[8] null[0] null[1] null[2] null[3] null[4] null[5] null[6] null[7] null[8] N002 N002 N002 N002 N002 N002 N002 N002 N002 null[9] null[10] null[11] null[12] null[13] null[14] null[15] NC_01 NC_02 reg_file[4]
V1 VDD 0 5
XX4 REGOUT[0] REGOUT[1] REGOUT[2] REGOUT[3] N002 N002 N002 N002 ALU VDD ALUOUT[0] ALUOUT[1] ALUOUT[2] ALUOUT[3] ALUOUT[4] ALUOUT[5] ALUOUT[6] ALUOUT[7] ALUOUT[8] alu_add_mul
V2 CLK 0 PULSE(0 5 10u 1n 1n 10u 20u)
XX1 0 WL[7] Write ALU DataSelect ADDR1[1] ADDR1[0] ADDR2[1] ADDR2[0] ADDR0[1] ADDR0[0] VDD WL[0] WL[6] WL[5] WL[4] WL[3] WL[2] WL[1] instructionmemorysimple
XX5 CLK VDD WL[0] WL[1] WL[2] WL[3] PC[0] PC[1] decoder
XX6 CLK VDD WL[4] WL[5] WL[6] WL[7] PC[2] PC[3] decoder
R1 PC[3] 0 1
XX7 REGOUT[0] REGOUT[1] REGOUT[2] REGOUT[3] REGOUT[4] REGOUT[5] REGOUT[6] REGOUT[7] REGOUT[8] VDD N001 N001 N001 N001 N001 N001 N001 N001 N001 Write ALU sram
XX8 N001 N001 N001 N001 N001 N001 N001 N001 N001 ALUOUT[0] ALUOUT[1] ALUOUT[2] ALUOUT[3] ALUOUT[4] ALUOUT[5] ALUOUT[6] ALUOUT[7] ALUOUT[8] DataSelect VDD REGIN[0] REGIN[1] REGIN[2] REGIN[3] REGIN[4] REGIN[5] REGIN[6] REGIN[7] REGIN[8] mux[9]

* block symbol definitions
.subckt counter VDD CNT[0] CNT[1] CNT[2] CLK
XX1 NS[0] NS[1] NS[2] VDD CNT[0] CNT[1] CNT[2] CLK !Q[0] !Q[1] !Q[2] reg[3]
XX2 CNT[0] CNT[1] CNT[2] VDD NS[0] NS[1] NS[2] counter_ns
.ends counter

.subckt reg_file[4] D[0] D[1] D[2] D[3] D[4] D[5] D[6] D[7] D[8] VDD CLK ADDR0[0] ADDR0[1] ADDR1[0] ADDR1[1] ADDR2[0] ADDR2[1] Q1[0] Q1[1] Q1[2] Q1[3] Q1[4] Q1[5] Q1[6] Q1[7] Q1[8] !Q1[0] !Q1[1] !Q1[2] !Q1[3] !Q1[4] !Q1[5] !Q1[6] !Q1[7] !Q1[8] Q2[0] Q2[1] Q2[2] Q2[3] Q2[4] Q2[5] Q2[6] Q2[7] Q2[8] !Q2[0] !Q2[1] !Q2[2] !Q2[3] !Q2[4] !Q2[5] !Q2[6] !Q2[7] !Q2[8]
XX1 D[0] D[1] D[2] D[3] D[4] D[5] D[6] D[7] D[8] VDD N001 N001 N001 N001 N001 N001 N001 N001 N001 SEL[0] N003 N003 N003 N003 N003 N003 N003 N003 N003 reg[9]
XX2 D[0] D[1] D[2] D[3] D[4] D[5] D[6] D[7] D[8] VDD N004 N004 N004 N004 N004 N004 N004 N004 N004 SEL[1] N007 N007 N007 N007 N007 N007 N007 N007 N007 reg[9]
XX3 D[0] D[1] D[2] D[3] D[4] D[5] D[6] D[7] D[8] VDD N006 N006 N006 N006 N006 N006 N006 N006 N006 SEL[2] N009 N009 N009 N009 N009 N009 N009 N009 N009 reg[9]
XX4 D[0] D[1] D[2] D[3] D[4] D[5] D[6] D[7] D[8] VDD N008 N008 N008 N008 N008 N008 N008 N008 N008 SEL[3] N012 N012 N012 N012 N012 N012 N012 N012 N012 reg[9]
XX5 N001 N001 N001 N001 N001 N001 N001 N001 N001 N004 N004 N004 N004 N004 N004 N004 N004 N004 ADDR1[0] VDD N002 N002 N002 N002 N002 N002 N002 N002 N002 mux[9]
XX6 N006 N006 N006 N006 N006 N006 N006 N006 N006 N008 N008 N008 N008 N008 N008 N008 N008 N008 ADDR1[0] VDD N005 N005 N005 N005 N005 N005 N005 N005 N005 mux[9]
XX7 N002 N002 N002 N002 N002 N002 N002 N002 N002 N005 N005 N005 N005 N005 N005 N005 N005 N005 ADDR1[1] VDD Q[0] Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] mux[9]
XX8 N003 N003 N003 N003 N003 N003 N003 N003 N003 N007 N007 N007 N007 N007 N007 N007 N007 N007 ADDR1[0] VDD N010 N010 N010 N010 N010 N010 N010 N010 N010 mux[9]
XX9 N009 N009 N009 N009 N009 N009 N009 N009 N009 N012 N012 N012 N012 N012 N012 N012 N012 N012 ADDR1[0] VDD N011 N011 N011 N011 N011 N011 N011 N011 N011 mux[9]
XX10 N010 N010 N010 N010 N010 N010 N010 N010 N010 N011 N011 N011 N011 N011 N011 N011 N011 N011 ADDR1[1] VDD !Q[0] !Q[1] !Q[2] !Q[3] !Q[4] !Q[5] !Q[6] !Q[7] !Q[8] mux[9]
XX13 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 ADDR2[0] VDD N013 N013 N013 N013 N013 N013 N013 N013 N013 mux[9]
XX14 N009 N009 N009 N009 N009 N009 N009 N009 N009 N012 N012 N012 N012 N012 N012 N012 N012 N012 ADDR2[0] VDD N014 N014 N014 N014 N014 N014 N014 N014 N014 mux[9]
XX19 N013 N013 N013 N013 N013 N013 N013 N013 N013 N014 N014 N014 N014 N014 N014 N014 N014 N014 ADDR2[1] VDD Q[0] Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] mux[9]
XX24 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 N007 ADDR2[0] VDD N015 N015 N015 N015 N015 N015 N015 N015 N015 mux[9]
XX25 N009 N009 N009 N009 N009 N009 N009 N009 N009 N012 N012 N012 N012 N012 N012 N012 N012 N012 ADDR2[0] VDD N016 N016 N016 N016 N016 N016 N016 N016 N016 mux[9]
XX26 N015 N015 N015 N015 N015 N015 N015 N015 N015 N016 N016 N016 N016 N016 N016 N016 N016 N016 ADDR2[1] VDD !Q[0] !Q[1] !Q[2] !Q[3] !Q[4] !Q[5] !Q[6] !Q[7] !Q[8] mux[9]
XX11 CLK VDD SEL[0] SEL[1] SEL[2] SEL[3] ADDR0[0] ADDR0[1] decoder
.ends reg_file[4]

.subckt alu_add_mul A[0] A[1] A[2] A[3] B[0] B[1] B[2] B[3] C VDD Out[0] Out[1] Out[2] Out[3] Out[4] Out[5] Out[6] Out[7] Out[8]
XX1 A[0] A[1] A[2] A[3] VDD SUM[0] SUM[1] SUM[2] SUM[3] B[0] B[1] B[2] B[3] SUM[4] rca[4]
XX2 A[0] A[1] A[2] A[3] VDD Prod[0] Prod[1] Prod[2] Prod[3] Prod[4] Prod[5] Prod[6] Prod[7] B[0] B[1] B[2] B[3] multiplier[4]
XX3 SUM[0] SUM[1] SUM[2] SUM[3] SUM[4] SUM[5] SUM[6] SUM[7] SUM[8] Prod[0] Prod[1] Prod[2] Prod[3] Prod[4] Prod[5] Prod[6] Prod[7] Sum[5:8] C VDD Out[0] Out[1] Out[2] Out[3] Out[4] Out[5] Out[6] Out[7] Out[8] mux[9]
R1 Sum[5] 0 .001
.ends alu_add_mul

.subckt instructionmemorysimple WL8 WL7 BL8 BL7 BL6 BL5 BL4 BL3 BL2 BL1 BL0 VDD WL0 WL6 WL5 WL4 WL3 WL2 WL1
R3 VDD BL8 40K
R4 VDD BL7 40K
R5 VDD BL6 40K
R6 VDD BL5 40K
R7 VDD BL4 40K
R8 VDD BL3 40K
R9 VDD BL2 40K
R10 VDD BL1 40K
R11 VDD BL0 40K
M81 BL6 WL0 0 0 ROMN W=10u L=0.5u
M86 BL1 WL0 0 0 ROMN W=10u L=0.5u
M5 BL7 WL1 0 0 ROMN W=10u L=0.5u
M6 BL0 WL0 0 0 ROMN W=10u L=0.5u
M18 BL7 WL0 0 0 ROMN W=10u L=0.5u
M19 BL5 WL2 0 0 ROMN W=10u L=0.5u
M1 BL7 WL4 0 0 ROMN W=10u L=0.5u
M8 BL8 WL4 0 0 ROMN W=10u L=0.5u
M9 BL6 WL4 0 0 ROMN W=10u L=0.5u
M10 BL7 WL3 0 0 ROMN W=10u L=0.5u
M24 BL8 WL3 0 0 ROMN W=10u L=0.5u
M25 BL6 WL3 0 0 ROMN W=10u L=0.5u
M11 BL3 WL1 0 0 ROMN W=10u L=0.5u
M22 BL2 WL1 0 0 ROMN W=10u L=0.5u
M23 BL1 WL1 0 0 ROMN W=10u L=0.5u
M26 BL5 WL1 0 0 ROMN W=10u L=0.5u
M27 BL4 WL1 0 0 ROMN W=10u L=0.5u
M28 BL8 WL2 0 0 ROMN W=10u L=0.5u
M2 BL8 WL5 0 0 ROMN W=10u L=0.5u
M3 BL7 WL5 0 0 ROMN W=10u L=0.5u
M4 BL6 WL5 0 0 ROMN W=10u L=0.5u
M7 BL8 WL6 0 0 ROMN W=10u L=0.5u
M12 BL7 WL6 0 0 ROMN W=10u L=0.5u
M13 BL6 WL6 0 0 ROMN W=10u L=0.5u
M14 BL6 WL7 0 0 ROMN W=10u L=0.5u
M15 BL7 WL7 0 0 ROMN W=10u L=0.5u
M16 BL8 WL7 0 0 ROMN W=10u L=0.5u
M17 BL8 WL8 0 0 ROMN W=10u L=0.5u
M20 BL7 WL8 0 0 ROMN W=10u L=0.5u
M21 BL6 WL8 0 0 ROMN W=10u L=0.5u
.MODEL ROMN NMOS  (LEVEL=7 TOX=8e-9 U0 = 1300
+CGSO=3.4E-10 CGDO=3.4E-10 CJ=6.8e-4  CJSW=1.26e-10
+MJ=0.5 MJSW=0.5 CGBO=5.75E-10 RSH=33.8)
.MODEL ROMP PMOS  (LEVEL=7 TOX=8e-9  CGDO=5.3752E-11
+U0= 440    CGSO=5.3752E-11  CGBO=3.3650E-10 CJ=4.8447E-04
+MJ=0.5027 CJSW=1.6457E-10  MJSW=0.217168 RSH=29.8)
.ic V(BL8)=5 V(BL7)=0 V(BL6)=0 V(BL5)=5 V(BL4)=5 V(BL3)=5 V(BL2)=5 V(BL1)=0 V(BL0)=0
.ends instructionmemorysimple

.subckt decoder CLK VDD OUT[0] OUT[1] OUT[2] OUT[3] ADDR[0] ADDR[1]
XX11 ADDR[0] ADDR[1] N001 VDD gate_nor
XX12 N001 CLK OUT[0] VDD gate_and
XX15 ADDR[1] N002 N003 VDD gate_nor
XX16 N003 CLK OUT[1] VDD gate_and
XX18 N006 CLK OUT[3] VDD gate_and
XX17 ADDR[0] ADDR[1] N006 VDD gate_and
XX20 ADDR[0] VDD N002 gate_not
XX21 N004 ADDR[0] N005 VDD gate_nor
XX22 N005 CLK OUT[2] VDD gate_and
XX23 ADDR[1] VDD N004 gate_not
.ends decoder

.subckt sram D[0] D[1] D[2] D[3] D[4] D[5] D[6] D[7] D[8] VDD Q[0] Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] WE ADDR
XX1 D[0] D[1] D[2] D[3] D[4] D[5] D[6] D[7] D[8] VDD Q[0] Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] OUT[0] OUT[1] 6tsram[9]
XX2 D[0] D[1] D[2] D[3] D[4] D[5] D[6] D[7] D[8] VDD Q[0] Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] OUT[2] OUT[3] 6tsram[9]
XX4 VDD VDD OUT[0] OUT[1] OUT[2] OUT[3] ADDRB[0] ADDRB[1] decoder
R1 ADDRB[1] ADDR 1
R2 ADDRB[0] WE 1
.ends sram

.subckt mux[9] A[0] A[1] A[2] A[3] A[4] A[5] A[6] A[7] A[8] B[0] B[1] B[2] B[3] B[4] B[5] B[6] B[7] B[8] C VDD Out[0] Out[1] Out[2] Out[3] Out[4] Out[5] Out[6] Out[7] Out[8]
XX1 A[0] B[0] C VDD Out[0] mux
XX2 A[1] B[1] C VDD Out[1] mux
XX3 A[2] B[2] C VDD Out[2] mux
XX4 A[3] B[3] C VDD Out[3] mux
XX5 A[4] B[4] C VDD Out[4] mux
XX6 A[5] B[5] C VDD Out[5] mux
XX7 A[6] B[6] C VDD Out[6] mux
XX8 A[7] B[7] C VDD Out[7] mux
XX9 A[8] B[8] C VDD Out[8] mux
.ends mux[9]

.subckt reg[3] D[0] D[1] D[2] VDD Q[0] Q[1] Q[2] CLK !Q[0] !Q[1] !Q[2]
XX2 D[1] VDD Q[1] CLK !Q[1] dff
XX1 D[0] VDD Q[0] CLK !Q[0] dff
XX3 D[2] VDD Q[2] CLK !Q[2] dff
.ends reg[3]

.subckt counter_ns PS[0] PS[1] PS[2] VDD NS[0] NS[1] NS[2]
XX4 N001 VDD NS[0] gate_delay params: Speed=1
XX5 N002 VDD NS[1] gate_delay params: Speed=1
XX6 N004 VDD NS[2] gate_delay params: Speed=1
XX2 PS[0] PS[1] N002 VDD gate_xor
XX3 N003 PS[2] N004 VDD gate_xor
XX7 PS[0] PS[1] N003 VDD gate_and
XX13 PS[0] VDD N001 gate_not_param params: Speed=10
.ends counter_ns

.subckt reg[9] D[0] D[1] D[2] D[3] D[4] D[5] D[6] D[7] D[8] VDD Q[0] Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] CLK !Q[0] !Q[1] !Q[2] !Q[3] !Q[4] !Q[5] !Q[6] !Q[7] !Q[8]
XX1 D[0] D[1] D[2] VDD Q[0] Q[1] Q[2] CLK !Q[0] !Q[1] !Q[2] reg[3]
XX2 D[3] D[4] D[5] VDD Q[3] Q[4] Q[5] CLK !Q[3] !Q[4] !Q[5] reg[3]
XX3 D[6] D[7] D[8] VDD Q[6] Q[7] Q[8] CLK !Q[6] !Q[7] !Q[8] reg[3]
.ends reg[9]

.subckt rca[4] A[0] A[1] A[2] A[3] VDD SUM[0] SUM[1] SUM[2] SUM[3] B[0] B[1] B[2] B[3] Co
XX1 A[0] VDD Sum[0] B[0] N003 half_adder
XX2 A[1] VDD Sum[1] B[1] N002 N003 full_adder
XX3 A[2] VDD Sum[2] B[2] N001 N002 full_adder
XX4 A[3] VDD Sum[3] B[3] Co N001 full_adder
.ends rca[4]

.subckt multiplier[4] A[0] A[1] A[2] A[3] VDD Prod[0] Prod[1] Prod[2] Prod[3] Prod[4] Prod[5] Prod[6] Prod[7] B[0] B[1] B[2] B[3]
XX1 A[0] B[3] N001 VDD gate_and
XX2 A[0] B[2] N002 VDD gate_and
XX3 A[0] B[1] N003 VDD gate_and
XX4 A[0] B[0] Prod[0] VDD gate_and
XX5 A[1] B[3] N004 VDD gate_and
XX6 A[1] B[2] N005 VDD gate_and
XX7 A[1] B[1] N006 VDD gate_and
XX8 A[1] B[0] N007 VDD gate_and
XX9 N003 VDD Prod[1] N007 N008 half_adder
XX10 N002 VDD N011 N006 N014 N008 full_adder
XX11 N001 VDD N010 N005 N012 N014 full_adder
XX13 A[2] B[3] N015 VDD gate_and
XX14 A[2] B[2] N016 VDD gate_and
XX15 A[2] B[1] N017 VDD gate_and
XX16 A[2] B[0] N018 VDD gate_and
XX17 A[3] B[3] PB[3] VDD gate_and
XX18 A[3] B[2] PB[2] VDD gate_and
XX19 A[3] B[1] PB[1] VDD gate_and
XX20 A[3] B[0] PB[0] VDD gate_and
XX21 PA[0] PA[1] PA[2] PA[3] VDD Prod[3] Prod[4] Prod[5] Prod[6] PB[0] PB[1] PB[2] PB[3] Prod[7] rca[4]
XX22 N011 VDD Prod[2] N018 N019 half_adder
XX23 N010 VDD PA[0] N017 N021 N019 full_adder
XX24 N009 VDD PA[1] N016 N020 N021 full_adder
XX12 N004 VDD N009 N012 N013 half_adder
XX25 N013 VDD PA[2] N015 PA[3] N020 full_adder
.ends multiplier[4]

.subckt gate_nor A B Out VDD
M5 P001 A VDD VDD RIT4007P7
M6 Out B P001 P001 RIT4007P7
M7 Out A 0 0 RIT4007N7
M8 Out B 0 0 RIT4007N7
.inc CD4007.mod
.ends gate_nor

.subckt gate_and A B Out VDD
XX3 A B N001 VDD gate_nand
XX4 N001 VDD Out gate_not
.ends gate_and

.subckt gate_not A VDD !A
M1 !A A 0 0 RIT4007N7
M2 !A A VDD VDD RIT4007P7
.inc CD4007.mod
.ends gate_not

.subckt 6tsram[9] D[0] D[1] D[2] D[3] D[4] D[5] D[6] D[7] D[8] VDD Q[0] Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] RA WA
XX1 D[0] VDD Q[0] RA WA 6tsram
XX2 D[1] VDD Q[1] RA WA 6tsram
XX3 D[2] VDD Q[2] RA WA 6tsram
XX4 D[3] VDD Q[3] RA WA 6tsram
XX5 D[4] VDD Q[4] RA WA 6tsram
XX6 D[5] VDD Q[5] RA WA 6tsram
XX7 D[6] VDD Q[6] RA WA 6tsram
XX8 D[7] VDD Q[7] RA WA 6tsram
XX9 D[8] VDD Q[8] RA WA 6tsram
.ends 6tsram[9]

.subckt mux A B C VDD Out
XX1 B C N001 VDD gate_and
XX3 A N003 N002 VDD gate_and
XX4 C VDD N003 gate_not
XX5 N001 N002 Out VDD gate_or
.ends mux

.subckt dff D VDD Q CLK !Q
XX1 CLK VDD N002 gate_not_param params: Speed=1
XX2 D VDD N004 gate_not_param params: Speed=100
XX6 N003 Q !Q VDD gate_nand_param params: Speed=100
XX5 N001 !Q Q VDD gate_nand_param params: Speed=100
XX3 D CLK N002 VDD N001 gate_nand3_param params: Speed=100
XX4 N002 CLK N004 VDD N003 gate_nand3_param params: Speed=100
.ic V(Q)=0
.ic V(!Q)=5
.ends dff

.subckt gate_delay A VDD OUT
M1 N001 A 0 0 myNMOS w=myNW L=myNL
M2 N001 A VDD VDD myPMOS W=myPW L=myPL
M3 Out N001 0 0 myNMOS w=myNW L=myNL
M4 Out N001 VDD VDD myPMOS W=myPW L=myPL
.inc Mod_W2017N.mod
.param myPW=2u*sqrt(Speed)
.param myPL=100u/sqrt(Speed)
.param myNW=.1u*sqrt(Speed)
.param myNL=500u/sqrt(Speed)
.param Speed=.1
.ends gate_delay

.subckt gate_xor A B Out VDD
M1 Out A N003 N003 RIT4007N7
M2 Out N002 P001 P001 RIT4007P7
M3 Out N001 P002 P002 RIT4007P7
M4 N003 N001 0 0 RIT4007N7
M5 N003 B 0 0 RIT4007N7
M6 Out N002 N003 N003 RIT4007N7
M7 P002 B VDD VDD RIT4007P7
M8 P001 A VDD VDD RIT4007P7
XX1 A VDD N001 gate_not
XX4 B VDD N002 gate_not
.inc CD4007.mod
.ends gate_xor

.subckt gate_not_param A VDD !A
M1 !A A 0 0 myNMOS W=myNW L=myNL
M2 !A A VDD VDD myPMOS W=myPW L=myPL
.inc Mod_W2017N.mod
.param myPW=2u*sqrt(Speed)
.param myPL=100u/sqrt(Speed)
.param myNW=.6u*sqrt(Speed)
.param myNL=100u/sqrt(Speed)
.param Speed=1
.ends gate_not_param

.subckt half_adder A VDD SUM B C
XX4 A B SUM VDD gate_xor
XX5 B A C VDD gate_and
.ends half_adder

.subckt full_adder A VDD SUM B Co C
XX9 A B N001 VDD gate_xor
XX10 N001 C SUM VDD gate_xor
XX1 A B N002 VDD gate_and
XX2 A C N004 VDD gate_and
XX3 B C N005 VDD gate_and
XX4 N002 N004 N003 VDD gate_or
XX5 N003 N005 Co VDD gate_or
.ends full_adder

.subckt gate_nand A B Out VDD
M1 Out A N001 N001 RIT4007N7
M2 Out A VDD VDD RIT4007P7
M3 Out B VDD VDD RIT4007P7
M4 N001 B 0 0 RIT4007N7
.inc CD4007.mod
.ends gate_nand

.subckt 6tsram D VDD Q RA WA
XX1 N001 VDD N002 gate_not_param
XX2 N002 VDD N001 gate_not_param
M1 N001 WA D 0 myNMOS W=myNW L=myNL
M2 Q RA N002 0 myNMOS W=myNW L=myNL
.inc Mod_W2017N.mod
.param myPW=2u*sqrt(Speed)
.param myPL=100u/sqrt(Speed)
.param myNW=.6u*sqrt(Speed)
.param myNL=100u/sqrt(Speed)
.param Speed=100
.ends 6tsram

.subckt gate_or A B Out VDD
M1 Out N001 N002 N002 RIT4007N7
M2 Out N001 VDD VDD RIT4007P7
M3 Out N003 VDD VDD RIT4007P7
M4 N002 N003 0 0 RIT4007N7
XX3 A VDD N001 gate_not
XX4 B VDD N003 gate_not
.inc CD4007.mod
.ends gate_or

.subckt gate_nand_param A B Out VDD
M1 Out A N001 N001 myNMOS W=myNW L=myNL
M2 Out A VDD VDD myPMOS W=myPW L=myPL
M3 Out B VDD VDD myPMOS W=myPW L=myPL
M4 N001 B 0 0 myNMOS W=myNW L=myNL
.inc Mod_W2017N.mod
.param myPW=2u*sqrt(Speed)
.param myPL=100u/sqrt(Speed)
.param myNW=.6u*sqrt(Speed)
.param myNL=100u/sqrt(Speed)
.param Speed=1
.ends gate_nand_param

.subckt gate_nand3_param A B C VDD Out
M1 Out A N001 N001 myNMOS W=myNW L=myNL
M4 Out A VDD VDD myPMOS W=myPW L=myPL
M5 Out B VDD VDD myPMOS W=myPW L=myPL
M2 N001 B P001 P001 myNMOS W=myNW L=myNL
M3 P001 C 0 0 myNMOS W=myNW L=myNL
M6 Out C VDD VDD myPMOS W=myPW L=myPL
.inc Mod_W2017N.mod
.param myPW=2u*sqrt(Speed)
.param myPL=100u/sqrt(Speed)
.param myNW=.9u*sqrt(Speed)
.param myNL=100u/sqrt(Speed)
.param Speed=1
.ends gate_nand3_param

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\john\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 100u
.backanno
.end
